US04326882
To 400 ml of concentrated sulfuric acid in a 2-liter flask was added 145 grams (0.895 mole) of solid 2,5-dichloroaniline over a 5-minute period. Over the addition period the solution exothermically reached a temperature of 60° C. The sulfate salt solution of 2,5-dichloroaniline was cooled in an ice bath to about 5° C. and a solution of 65.6 grams (0.95 mole) of vacuum dried sodium nitrite in 400 ml concentrated sulfuric acid was added at such rate as to cause no exotherm. The mixture was stirred at 0° C. to 5° C. for about 30 minutes, was warmed to ambient temperature and stirred for an additional one hour. 450 ml of water was slowly added to the stirred mixture and the diluted mixture was steam distilled for about 15 minutes. An additional 450 ml of water was slowly added and the mixture steam distilled for about 75 minutes. The head temperature at the start of distillation was 145° C., the head temperature at the completion of distillation was 125° C., and the final pot temperature was 157° C. The distillate was transferred to a separatory funnel and extracted with 300 ml, 200 ml and 100 ml portions of methylene chloride. The extracts were combined and concentrated on a rotary evaporator at 55° C. and 40 mm Hg to remove methylene chloride. 135 grams, corresponding to a 92 percent yield, of slightly orange-colored 2,5-dichlorophenol was thus obtained.

reactant | 2,5-dichloroaniline | ClC1=C(N)C=C(C=C1)Cl | C6H5Cl2N
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | water | 450 ml | O | H2O
solvent | sulfuric acid | 400 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 400 ml | S(O)(O)(=O)=O | H2O4S
product | 2,5-dichlorophenol | 92 percent yield | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
